US04639521
To a solution of 1.63 g of 2,3,5,6,7,8-hexahydro-1-methyl-3-oxoisoquinoline in 10 ml of acetic acid, 1 ml of concentrated sulfuric acid and 5 ml of concentrated nitric acid (d=1.42) were dropwise added under cooling on ice. After the reaction was completed, the reaction mixture was poured into ice water and deposited crystals were filtered out. There was obtained 1.0 g of 2,3,5,6,7,8-hexahydro-1-methyl-4-nitro-3-oxoisoquinoline. mp: 255° C. (decomposition).

reactant | 2,3,5,6,7,8-hexahydro-1-methyl-3-oxoisoquinoline | 1.63 g | CC=1NC(C=C2CCCCC12)=O | C10H13NO
reactant | nitric acid | 5 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
product | 2,3,5,6,7,8-hexahydro-1-methyl-4-nitro-3-oxoisoquinoline | 1.0 g | CC=1NC(C(=C2CCCCC12)[N+](=O)[O-])=O | C10H12N2O3
